US07795262B2
XXXIV. 7-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-3-Pyrimidin-5-Yl-5,6,7,8-Tetrahydropyrido[3,4-c]pyridazine
A mixture of 7-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-3-chloro-5,6,7,8-tetrahydropyrido-[3,4-c]pyridazine (22 mg, 0.06 mmol), 5-pyrimidineboronic acid (12 mg, 0.09 mmol), Pd(PPh)4 (5.5 mg) and Na2CO3 (28 mg, 0.18 mmol) in DME (3 mL) and water (1 mL) is heated overnight at 80° C. Water is added and the mixture is extracted with DCM. The combined organic layers are dried (MgSO4) and solvent is removed in vacuo to give the crude product, which is purified by PTLC (4% TEA in EA) to give the title compound. 1H NMR (300 MHz, CDCl3) δ 9.40 (2H, s), 9.36 (1H, s), 7.64 (1H, s), 4.18 (2H, s), 3.84 (4H, m), 3.48 (2H, s), 3.84˜3.16 (4H, m), 2.56-2.64 (1H, m), 2.04-2.20 (4H, m), 1.60-1.98 (6H, m); MS (+VE) m/z 394.2 (M++1).

reactant | 7-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-3-chloro-5,6,7,8-tetrahydropyrido-[3,4-c]pyridazine | 0.06 mmol, 22 mg | C1(CCC1)N1CCN(CC1)C(CN1CC=2N=NC(=CC2CC1)Cl)=O | C17H24ClN5O
reactant | 5-pyrimidineboronic acid | 0.09 mmol, 12 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | Na2CO3 | 0.18 mmol, 28 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | water | 1 mL | O | H2O
product | 7-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-3-Pyrimidin-5-Yl-5,6,7,8-Tetrahydropyrido[3,4-c]pyridazine | C1(CCC1)N1CCN(CC1)C(CN1CC=2N=NC(=CC2CC1)C=1C=NC=NC1)=O | C21H27N7O
